US08492582B2
Water (1.2 mL), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.25 g), sodium bicarbonate (0.21 g), and bis(triphenylphosphine)palladium(II) dichloride (14 mg) were added to an ethylene glycol dimethyl ether (4 mL) solution of benzyl 2-(benzyloxy)-5-bromobenzoate (0.40 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.12 g), sodium bicarbonate (0.10 g), and bis(triphenylphosphine)palladium(II) dichloride (14 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 2 hours. After cooling the reaction mixture to room temperature, water and ethyl acetate were added thereto, and the insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-45% hexane/ethyl acetate] to obtain 0.29 g of benzyl 2-(benzyloxy)-5-(pyridin-4-yl)benzoate as a white solid.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.25 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium bicarbonate | 0.21 g | C([O-])(O)=O.[Na+]
reactant | benzyl 2-(benzyloxy)-5-bromobenzoate | 0.40 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)Br | C21H17BrO3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.12 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium bicarbonate | 0.10 g | C([O-])(O)=O.[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 4 mL | COCCOC | C4H10O2
solvent | Water | 1.2 mL | O | H2O
product | benzyl 2-(benzyloxy)-5-(pyridin-4-yl)benzoate | 0.29 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C1=CC=NC=C1 | C26H21NO3
